US07528142B2
3,3,3-trifluoro-N-(4-mercaptophenyl)propanamide
S-4-(3,3,3-trifluoropropanamido)phenyl 3,3,3-trifluoropropanethioate (44.8 g, 189 mmol) and EtOH (70 mL) were charged to a flask. Concentrated HCl (22.5 mL) was slowly added to keep the temperature below 30° C. The reaction was then heated to 50° C. for 17.5 h. The reaction mixture was reduced to 41 mL by vacuum distillation at 50° C. Cool the reaction to room temperature and H2O (51 mL) was added. The slurry was filtered and the filter cake washed with H2O (3×35 mL). The solid was dried under vacuum to produce the desired compound (19.9 g, 58%).

reactant | S-4-(3,3,3-trifluoropropanamido)phenyl 3,3,3-trifluoropropanethioate | 189 mmol, 44.8 g | FC(CC(SC1=CC=C(C=C1)NC(CC(F)(F)F)=O)=O)(F)F | C12H9F6NO2S
reactant | EtOH | 70 mL | CCO | C2H6O
reactant | HCl | 22.5 mL | Cl | ClH
solvent | H2O | 51 mL | O | H2O
product | 3,3,3-trifluoro-N-(4-mercaptophenyl)propanamide | 19.9 g, 58% | FC(CC(=O)NC1=CC=C(C=C1)S)(F)F | C9H8F3NOS
